US07713969B2
The cis and trans isomers of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl)pyrrolidine-2,5-dione may be prepared beginning with the reaction of (1H-indol-3-yl)-oxo-acetic acid methyl ester and (5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-acetic acid methyl ester in the presence of a base such as LDA (lithium diisopropylamide) in a polar aprotic solvent such as THF to yield 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-but-2-enedioic acid dimethyl ester. Alternatively, 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-but-2-enedioic acid dimethyl ester may be prepared by reaction of (1H-indol-3-yl)-acetic acid methyl ester and (5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-oxo-acetic acid methyl ester in the presence of a base (e.g., LDA) in THF. The 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-but-2-enedioic acid dimethyl ester is reduced by catalytic hydrogenation over a noble metal catalyst (e.g., Pd on charcoal) to give 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-succinic acid dimethyl ester, which is reacted with benzylamine (PhCH2NH2) to yield a mixture of cis and trans 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1-phenyl-pyrrolidine-2,5-dione. The mixture of cis and trans isomers may be deprotected by catalytic hydrogenation over Pd on charcoal (Pd—C) to give rise to a mixture of cis and trans 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidine-2,5-dione. The cis and trans isomers may be separated to give all four cis and trans isomers (e.g., by chromatography as in Examples 4 and 5). The deprotected mixture of cis and trans isomers may be treated with potassium tert-butoxide in tert-butanol (as in Example 3) or a mixture of THF and tert-butanol at 50° C. to yield a mixture with a predominance of the trans isomers. Alternatively, the 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-succinic acid dimethyl ester can be reacted with ammonia in methanol at elevated termperatures to yield predominatntly the cis isomers of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidine-2,5-dione, which may be isomerized to yield predominately the trans isomers of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidine-2,5-dione with potassium tert-butoxide in tert-butanol (as in Example 3) or a mixture of THF and tert-butanol at 50° C.

reactant | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-but-2-enedioic acid dimethyl ester | COC(C(=C(C(=O)OC)C1=CNC2=CC=CC=C12)C1=CN2CCCC3=CC=CC1=C23)=O | C25H22N2O4
reactant | (1H-indol-3-yl)-acetic acid methyl ester | COC(CC1=CNC2=CC=CC=C12)=O | C11H11NO2
reactant | (5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-oxo-acetic acid methyl ester | COC(C(=O)C1=CN2CCCC3=CC=CC1=C23)=O | C14H13NO3
reactant | LDA | C(C)(C)[N-]C(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd on charcoal | [Pd] | Pd
product | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-succinic acid dimethyl ester | COC(C(C(C(=O)OC)C1=CNC2=CC=CC=C12)C1=CN2CCCC3=CC=CC1=C23)=O | C25H24N2O4
